US05155108
A mixture of 16.7 g of 3-bromo-2,2-dimethyl-1-propanol, 14.6 g of potassium thiocyanate and 60 ml of dimethylformamide was stirred for 4 hours at 130°-140° C. The reaction solution was cooled to room temperature (hereinafter means "5°-20° C."), to which a mixture of 200 ml of diethyl ether and 200 ml of water was added. The ethereal layer was collected. The aqueous layer was extracted with 150 ml of diethyl ether. The combined ethereal layers were washed with a saturated saline, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was distilled under reduced pressure to obtain 12.4 g of 3-hydroxy-2,2-dimethyl-1-propylthiocyanate.

reactant | 3-bromo-2,2-dimethyl-1-propanol | 16.7 g | BrCC(CO)(C)C | C5H11BrO
reactant | potassium thiocyanate | 14.6 g | [S-]C#N.[K+]
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | water | 200 ml | O | H2O
product | 3-hydroxy-2,2-dimethyl-1-propylthiocyanate | 12.4 g | OCC(CSC#N)(C)C | C6H11NOS
